US09428503B2
7-Fluoro-3-methyl-8-[6-[3-(1-piperidyl)propoxy]-3-pyridyl]-1-tetrahydropyran-4-yl-imidazo[4,5-c]quinolin-2-one
3-(Piperidin-1-yl)propan-1-ol (0.053 mL, 0.35 mmol) was added slowly to a slurry of sodium hydride (31.5 mg, 0.79 mmol) in THF (7 mL) and the solution stirred at ambient temperature for 30 minutes. 7-Fluoro-8-(6-fluoro-3-pyridyl)-3-methyl-1-tetrahydropyran-4-yl-imidazo[4,5-c]quinolin-2-one (125 mg, 0.32 mmol) in THF (3 mL) was added to the reaction mixture via syringe over a period of 1 minute and the reaction stirred for 24 h. The reaction was quenched with water then extracted into DCM, the organic phase separated and concentrated in vacuo. The crude product was purified by FCC, elation gradient 0 to 10% 1M methanolic ammonia in DCM, and the resultant oil triturated with Et2O to afford the desired material as a white solid (92 mg, 56%). NMR Spectrum: 1H NMR (500 MHz, CDCl3) δ 1.38-1.52 (2H, m), 1.61 (4H, p), 1.92 (2H, dd), 2.03 (2H, dt), 2.43 (4H, s), 2.47-2.58 (2H, m), 2.94 (2H, d), 3.53-3.63 (5H, m), 4.22 (2H, dd), 4.42 (2H, t), 5.01 (1H, s), 6.89 (1H, dd), 7.85-7.96 (2H, m), 8.26 (1H, s), 8.44 (1H, s), 8.71 (1H, s). Mass Spectrum: m/z (ES+)[M+H]+=520.

reactant | 3-(Piperidin-1-yl)propan-1-ol | 0.35 mmol, 0.053 mL | N1(CCCCC1)CCCO | C8H17NO
reactant | sodium hydride | 0.79 mmol, 31.5 mg | [H-].[Na+]
reactant | 7-Fluoro-8-(6-fluoro-3-pyridyl)-3-methyl-1-tetrahydropyran-4-yl-imidazo[4,5-c]quinolin-2-one | 0.32 mmol, 125 mg | FC=1C(=CC=2C3=C(C=NC2C1)N(C(N3C3CCOCC3)=O)C)C=3C=NC(=CC3)F | C21H18F2N4O2
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 7-Fluoro-3-methyl-8-[6-[3-(1-piperidyl)propoxy]-3-pyridyl]-1-tetrahydropyran-4-yl-imidazo[4,5-c]quinolin-2-one | 92 mg, 56% | FC=1C(=CC=2C3=C(C=NC2C1)N(C(N3C3CCOCC3)=O)C)C=3C=NC(=CC3)OCCCN3CCCCC3 | C29H34FN5O3
